US07625924B2
N-(1-Azabicyclo[2.2.2]oct-3-ylmethyl)-5-trifluoromethoxy-1H-indazole-3-carboxamide hydroformate
To a solution of 5-(trifluoromethoxy)-1H-indazole-3-carboxylic acid (0.40 mmol) in tetrahydrofuran (5.0 mL) and N,N-dimethylformamide (5.0 mL) was added 1-(1-azabicyclo[2.2.2]oct-3-yl)methanamine dihydrochloride (0.40 mmol) and HATU (0.40 mmol). N,N-Diisopropylethylamine (10.0 mmol) was added and the reaction mixture was maintained for 16 h. The reaction mixture was heated at 60° C. for 1 h, and was filtered and concentrated. The residue was redissolved in methanol and loaded on a 5 g SCX column. The column was washed with methanol and the product was eluted with methanoudimethylethylamine (9/1) and concentrated. The residue was purified by preparative HPLC to produce the desired product in 20% yield. 1H NMR (CDCl3) δ 8.47 (s, 1 H), 8.10 (s, 1 H), 7.67 (d, J=9.1, 1H), 7.36 (d, J=9.1, 1H), 3.63-3.52 (m, 3 H), 3.48-3.23 (m, 4 H), 3.08-3.01 (m, 1 H), 2.66-2.44 (m, 1 H), 2.32-2.22 (m, 1 H), 2.14-2.08 (m, 1 H), 2.06-1.85 (m, 3 H); LC/MS (EI) tR 4.8 min, m/z 369 (M++1).

reactant | 5-(trifluoromethoxy)-1H-indazole-3-carboxylic acid | 0.40 mmol | FC(OC=1C=C2C(=NNC2=CC1)C(=O)O)(F)F | C9H5F3N2O3
reactant | 1-(1-azabicyclo[2.2.2]oct-3-yl)methanamine dihydrochloride | 0.40 mmol | Cl.Cl.N12CC(C(CC1)CC2)CN
reactant | HATU | 0.40 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-Diisopropylethylamine | 10.0 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | N-(1-Azabicyclo[2.2.2]oct-3-ylmethyl)-5-trifluoromethoxy-1H-indazole-3-carboxamide | 20% yield | N12CC(C(CC1)CC2)CNC(=O)C2=NNC1=CC=C(C=C21)OC(F)(F)F | C17H19F3N4O2
